US07253196B2
1-((1R,2S,4R)-5,5-difluorobicyclo[2.2.1]heptan-2-yl)thiourea
A mixture of 1-benzoyl-3-((1R,2S,4R)-5,5-difluorobicyclo-[2.2.1]heptan-2-yl)thiourea (˜1.80 mmol) and potassium carbonate (1.49 g, 10.8 mmol) in methanol (5.0 mL), water (2.5 mL), and tetrahydrofuran (2.5 mL) was stirred at ambient temperature for 2 h. The reaction mixture was concentrated in vacuo, and the residue was partitioned between EtOAc and water. The organic portion was washed with brine, conc. in vacuo, and purified by flash column chromatography (0 to 65% of ethyl acetate in hexanes) to give the title compound as a white solid. MS m/z: 207.0 (M+H)+.

reactant | 1-benzoyl-3-((1R,2S,4R)-5,5-difluorobicyclo-[2.2.1]heptan-2-yl)thiourea | ˜1.80 mmol | C(C1=CC=CC=C1)(=O)NC(=S)N[C@@H]1[C@H]2CC([C@@H](C1)C2)(F)F | C15H16F2N2OS
reactant | potassium carbonate | 10.8 mmol, 1.49 g | C([O-])([O-])=O.[K+].[K+]
reactant | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
solvent | methanol | 5.0 mL | CO | CH4O
solvent | water | 2.5 mL | O | H2O
product | 1-((1R,2S,4R)-5,5-difluorobicyclo[2.2.1]heptan-2-yl)thiourea | FC1([C@H]2C[C@@H]([C@@H](C1)C2)NC(=S)N)F | C8H12F2N2S
